US07074798B2
7-Allyl-8-(3,5-dimethylpiperazin-1-yl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione
A suspension of 7-allyl-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione (200 mg), cis-2,6-dimethylpiperazine (107 mg), and 1,8-diazabicyclo[5.4.0]undec-7-ene (128 μl) in 1-methyl-2-pyrrolidone (2 ml) was stirred at 150° C. for 50 minutes. The reaction mixture was diluted with ethyl acetate and water, and extracted with ethyl acetate. The aqueous layer was extracted with chloroform, and the combined organic layer was washed with water and dried over magnesium sulfate. The solvent was removed by distillation at reduced pressure to give brown oil. The oil was purified by silica gel column chromatography, and 111 mg of the title compound was obtained from a fraction eluted with methanol-ethyl acetate (1:10).

reactant | 7-allyl-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione | 200 mg | C(C=C)N1C(=NC=2N(C(N(C(C12)=O)C)=O)C)Cl | C10H11ClN4O2
reactant | cis-2,6-dimethylpiperazine | 107 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 128 μl | N12CCCCCC2=NCCC1 | C9H16N2
solvent | 1-methyl-2-pyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-Allyl-8-(3,5-dimethylpiperazin-1-yl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione | 111 mg | C(C=C)N1C(=NC=2N(C(N(C(C12)=O)C)=O)C)N1CC(NC(C1)C)C | C16H24N6O2
